US04237138
N-Acetyl-4-(2-hydroxy-n-propoxy)piperidine (12 g.) in dry D.M.F. (50 ml.) was added dropwise to a stirred suspension of sodium hydride (5.0 g., 50% dispersion in mineral oil) in D.M.F. (50 ml.) at 60°-70° C. under an atmosphere of nitrogen. The suspension was stirred for 3 hours, then fluorobenzene (6.4 g.) in D.M.F. (50 ml.) added dropwise and the suspension stirred at 100° C. for 50 hours. The cooled solution was treated with isopropanol (20 ml.) then water (200 ml.), extracted with petroleum ether (3×200 ml.) and chloroform (3×200 ml.). The combined chloroform extracts were dried (Na2SO4) and the solvent evaporated in vacuo. The residue (9.0 g.) in sodium hydroxide solution (20 ml., 5N) and methanol (20 ml.) to bring about solution was heated under reflux for 5 hours. The methanol was evaporated, the residue diluted with water then extracted with chloroform (3×50 ml.). The combined chloroform extracts were washed with 2N HCl (3×30 ml.), the combined aqueous extracts basified to pH 12 with sodium hydroxide solution and extracted with chloroform (3×50 ml.). The combined chloroform layers were dried (Na2SO4), solvent evaporated in vacuo, then the residue triturated with ether and filtered. The filtrate was concentrated then distilled to give 4-(2-phenoxy-n-propoxy)piperidine (0.5 g.), b.p. 118°-122° C./0.3 mm., characterized spectroscopically.

reactant | N-Acetyl-4-(2-hydroxy-n-propoxy)piperidine | 12 g | C(C)(=O)N1CCC(CC1)OCC(C)O | C10H19NO3
reactant | sodium hydride | 5.0 g | [H-].[Na+]
reactant | fluorobenzene | 6.4 g | FC1=CC=CC=C1 | C6H5F
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4-(2-phenoxy-n-propoxy)piperidine | 0.5 g | O(C1=CC=CC=C1)C(COC1CCNCC1)C | C14H21NO2
